US09382234B2
A 20 mL vial was charged with 5-chloro-2-methyl-3-((1-(pyrimidin-4-yl)piperidin -4-yl)oxy)benzoic acid (72.0 mg, 0.207 mmol), 3-(aminomethyl)-2,6-dimethylpyridin -4(1H)-one hydrochloride (46.9 mg, 0.248 mmol), EDC (59.5 mg, 0.311 mmol), HOAt (47.9 mg, 0.311 mmol), N,N-dimethylformamide (3 mL) and N-methylmorpholine (0.341 mL, 3.11 mmol). The reaction mixture was stirred for 2 days, at which time it was added drop-wise to a rapidly stirring solution of saturated NaHCO3 (25 mL) and water (10 mL). The resulting cloudy mixture was stirred at room temperature 4 h, then filtered. The collected solid was dried under high vacuum and purified by reverse phase HPLC (Column: Phenomenex Gemini-NX axia, 30×100, 5μ, C18. Eluent: 5-25% acetonitrile/0.1% formic acid in water, 7 minute gradient). The resulting sticky, glassy solid was dissolved in MeOH (6 mL) and DCM (2 mL), then concentrated in vacuo. The resulting residue was then dissolved with DCM (1 mL) and concentrated in vacuo. The residue was partitioned between DCM (20 mL) and saturated NaHCO3 (6 mL) and water (3 mL). The aqueous layer was filtered and the solid dried under vacuum for 20 min to give 5-chloro -N-((2,6-dimethyl-4-oxo-1,4-dihydropyridin-3-yl)methyl)-2-methyl-3-((1-(pyrimidin-4-yl)piperidin-4-yl)oxy)benzamide (30 mg, 0.062 mmol, 30.1% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 11.02 (br. s., 1H), 8.49 (s, 2H), 8.18 (d, J=6.32 Hz, 1H), 7.19 (d, J=2.02 Hz, 1H), 6.88 (dd, J=1.01, 6.32 Hz, 1H), 6.83 (d, J=1.77 Hz, 1H), 5.86 (s, 1H), 4.78 (tt, J=3.82, 7.17 Hz, 1H), 4.20 (d, J=4.80 Hz, 2H), 3.80-3.97 (m, 2H), 3.52-3.69 (m, 2H), 2.29 (s, 3H), 2.14 (s, 3H), 2.07 (s, 3H), 1.87-2.01 (m, 2H), 1.54-1.71 (m, 2H). MS(ES) [M+H]+ 482.2.

reactant | 5-chloro-2-methyl-3-((1-(pyrimidin-4-yl)piperidin -4-yl)oxy)benzoic acid | 0.207 mmol, 72.0 mg | ClC=1C=C(C(=C(C(=O)O)C1)C)OC1CCN(CC1)C1=NC=NC=C1 | C17H18ClN3O3
reactant | 3-(aminomethyl)-2,6-dimethylpyridin -4(1H)-one hydrochloride | 0.248 mmol, 46.9 mg | Cl.NCC1=C(NC(=CC1=O)C)C
reactant | EDC | 0.311 mmol, 59.5 mg
reactant | HOAt | 0.311 mmol, 47.9 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | N-methylmorpholine | 3.11 mmol, 0.341 mL | CN1CCOCC1 | C5H11NO
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | water | 10 mL | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 5-chloro -N-((2,6-dimethyl-4-oxo-1,4-dihydropyridin-3-yl)methyl)-2-methyl-3-((1-(pyrimidin-4-yl)piperidin-4-yl)oxy)benzamide | 0.062 mmol, 30 mg, 30.1% yield | ClC=1C=C(C(=C(C(=O)NCC2=C(NC(=CC2=O)C)C)C1)C)OC1CCN(CC1)C1=NC=NC=C1 | C25H28ClN5O3
